US07166631B2
[4-(4,9-diethoxy-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetic acid
A solution of ethyl[4-(4,9-diethoxy-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate (10 mg, 0.024 mmol) in tetrahydrofuran (4 ml) and a solution of lithium hydroxide (6 mg, 0.24 mmol) in water (1 ml) were stirred vigorously for 14 h. The reaction mixture was diluted with water (10 ml) and extracted with ethyl acetate (2×5 ml) and the organic extracts discarded. The aqueous phase was acidified with 2N hydrochloric acid to pH=5 and extracted with ethyl acetate (3×5 ml). The combined organic extracts were dried over magnesium sulphate and the solvent removed in vacuo to give the product as a red solid (4 mg, 43%).

reactant | ethyl[4-(4,9-diethoxy-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate | 0.024 mmol, 10 mg | C(C)OC(CC1=CC=C(C=C1)N1CC=2C(=C3C(=C(C2C1)OCC)C=CC=C3)OCC)=O | C26H29NO4
reactant | lithium hydroxide | 0.24 mmol, 6 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | [4-(4,9-diethoxy-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetic acid | 4 mg, 43% | C(C)OC1=C2C(=C(C=3CN(CC13)C1=CC=C(C=C1)CC(=O)O)OCC)C=CC=C2 | C24H25NO4
